US05977170
4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl 1-naphthalenylcarbamate
A suspension of naphthalen-1-carbamic acid 4-oxo-4-phenyl-butyl ester (4.72 g, 14 mmol), prepared in the previous step, in 100 ml of methanol plus 3.8 ml of 1 N HCl and 3.8 ml of water was warmed to dissolve the solid. While still warm thiosemicarbazide (1.29 g, 14 mmol) was added and the reaction stirred for 21 hours. The solid present was collected by filtration and dried under high vacuum to give the title compound (5.29 g, 92%) as a tan solid, mp 189-192° C.

reactant | naphthalen-1-carbamic acid 4-oxo-4-phenyl-butyl ester | 14 mmol, 4.72 g | O=C(CCCOC(NC1=CC=CC2=CC=CC=C12)=O)C1=CC=CC=C1 | C21H19NO3
reactant | HCl | 1 N, 3.8 ml | Cl | ClH
reactant | water | 3.8 ml | O | H2O
reactant | thiosemicarbazide | 14 mmol, 1.29 g | NNC(=S)N | CH5N3S
solvent | methanol | 100 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)hydrazono]-4-phenylbutyl 1-naphthalenylcarbamate | 5.29 g, 92% | C1(=CC=CC2=CC=CC=C12)NC(OCCCC(C1=CC=CC=C1)=NNC(=S)N)=O | C22H22N4O2S
